US07495104B2
Production of 4-[(6-benzyloxy-7-methoxy-4-quinolyl)oxy]-3-fluoro-nitrobenzene (Starting Compound 19)
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-3-fluoro-nitrobenzene (4.3 g) was dissolved in chloroform (200 ml) to prepare a solution. Aluminium chloride (10 g) was added to the solution, and the mixture was heated under reflux for 2 hr. The solvent was removed by evaporation before water (200 ml) was carefully added to the residue. The precipitated crude crystal (6.5 g) was collected by filtration. This crude crystal was dissolved in dimethylformamide (150 ml). Potassium carbonate (9.0 g) and benzyl chloride (4.5 g) were added to the solution, and the mixture was stirred at room temperature for 5 hr. The mixture was extracted with ethyl acetate. The extract was then washed with saturated brine and was dried over anhydrous sodium sulfate, and the solvent was removed by evaporation under the reduced pressure. The residue was purified by column chromatography on silica gel, and the title compound (1.4 g, yield 27%) was obtained from the fraction of n-hexane:ethyl acetate (1:4).

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-3-fluoro-nitrobenzene | 4.3 g | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C17H13FN2O5
reactant | Aluminium chloride | 10 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[(6-benzyloxy-7-methoxy-4-quinolyl)oxy]-3-fluoro-nitrobenzene | 1.4 g, yield 27% | C(C1=CC=CC=C1)OC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C23H17FN2O5
